US06184225B2
Potassium hydroxide (485 mg, 8.6mmol) was added to a solution of methyl 3-morpholinopropionate (1 g, 5.7 mmol) in ethanol (20 ml) and the mixture stirred for 2 hours at 80° C. The solution was allowed to cool and adjusted to pH1 with 6M hydrochloric acid. Insoluble material was removed by filtration and the volatiles removed from the filtrate by evaporation. The resulting oil was triturated with ether, the solid product collected by filtration, washed with methylene chloride and dried under vacuum to give 3-morpholinopropionic acid (993 mg, 89%) as a white solid.

reactant | Potassium hydroxide | 8.6mmol, 485 mg | [OH-].[K+]
reactant | methyl 3-morpholinopropionate | 5.7 mmol, 1 g | O1CCN(CC1)CCC(=O)OC | C8H15NO3
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-morpholinopropionic acid | 993 mg, 89% | O1CCN(CC1)CCC(=O)O | C7H13NO3
